US04373021
Synthesis of 3-oxo-1,2-diphenyl-7-[1-bromo-1-(2-quinoxalinyl)methylidene]-7H-indolizine
A solution of one equivalent of 2,3-diphenyl cyclopropenone and two equivalents of 2-tribromomethylquinoxaline in pyridine were heated on a steam bath for five minutes, flooded with cyclohexane and filtered to furnish the crude dye. Chromatography on silica gel furnished a purified sample, λmax =500 nm. A minor product of the reaction obtained from the chromatography was 1-oxo-2,3-diphenyl-7-[bromo(2-quinoxylinyl)methylidene]-7H-indolizine, λmax =600 nm.

reactant | 2,3-diphenyl cyclopropenone | one equivalent | C1(=CC=CC=C1)C=1C(C1C1=CC=CC=C1)=O | C15H10O
reactant | 2-tribromomethylquinoxaline | two equivalents | BrC(C1=NC2=CC=CC=C2N=C1)(Br)Br | C9H5Br3N2
reactant | cyclohexane | C1CCCCC1 | C6H12
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-oxo-1,2-diphenyl-7-[1-bromo-1-(2-quinoxalinyl)methylidene]-7H-indolizine | O=C1C(=C(C2=CC(C=CN12)=C(C1=NC2=CC=CC=C2N=C1)Br)C1=CC=CC=C1)C1=CC=CC=C1 | C29H18BrN3O
